US09278985B2
Methyl 4-amino-3-chloro-5-fluoro-6-(1H-indol-5-yl)picolinate (Compound No. 1.2)
1H-Indol-5-ylboronic acid (220 mg, 1.4 mmol, 1.1 equiv) and methyl 4-amino-3,6-dichloro-5-fluoropicolinate (300 mg, 1.3 mmol, 1.0 equiv) were sequentially added to a 5 mL Biotage microwave vessel, followed by cesium fluoride (380 mg, 2.5 mmol, 2.0 equiv), palladium(II) acetate (14 mg, 0.063 mmol, 0.05 equiv), and sodium 3,3′,3″-phosphinetriyltribenzenesulfonate (71 mg, 0.13 mmol, 0.10 equiv). A 3:1 mixture of water:acetonitrile (2.5 mL) was added and the resulting dark brown mixture was placed in a Biotage microwave and heated to 150° C. for 5 m, with external IR-sensor temperature monitoring from the side of the vessel. The cooled reaction mixture was diluted with water (50 mL) and extracted with dichloromethane (15×30 mL). The combined organic layers were dried (sodium sulfate), gravity filtered, and concentrated by rotary evaporation. The residue was purified by reverse phase column chromatography (5% acetonitrile to 100% acetonitrile gradient) to yield the title compound as a tan powder (290 mg, 73%).

reactant | 1H-Indol-5-ylboronic acid | 1.4 mmol, 220 mg, 1.1 equiv | N1C=CC2=CC(=CC=C12)B(O)O | C8H8BNO2
reactant | methyl 4-amino-3,6-dichloro-5-fluoropicolinate | 1.3 mmol, 300 mg, 1.0 equiv | NC1=C(C(=NC(=C1F)Cl)C(=O)OC)Cl | C7H5Cl2FN2O2
reactant | cesium fluoride | 2.5 mmol, 380 mg, 2.0 equiv | [F-].[Cs+]
reactant | sodium 3,3′,3″-phosphinetriyltribenzenesulfonate | 0.13 mmol, 71 mg, 0.10 equiv | P(C=1C=C(C=CC1)S(=O)(=O)[O-])(C=1C=C(C=CC1)S(=O)(=O)[O-])C=1C=C(C=CC1)S(=O)(=O)[O-].[Na+].[Na+].[Na+]
solvent | water | 50 mL | O | H2O
catalyst | palladium(II) acetate | 0.063 mmol, 14 mg, 0.05 equiv | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | acetonitrile | 2.5 mL | C(C)#N | C2H3N
product | Methyl 4-amino-3-chloro-5-fluoro-6-(1H-indol-5-yl)picolinate | 290 mg, 73% | NC1=C(C(=NC(=C1F)C=1C=C2C=CNC2=CC1)C(=O)OC)Cl | C15H11ClFN3O2
